US06413954B1
Triethylamine (2 mL, 15 mmol) is added to a solution of pentyl chloroformate (1.8 g, 12.2 mmol), (3S, 6R)-3-(tert-butoxycarbonyl)aminohexahydro-6-hydroxy-2H-azepin-2-one (1.5 g, 6.1 mmol) and 20 mL of CH2Cl2 at 5° C. The reaction mixture is stirred at room temperature overnight. The reaction mixture is then partitioned with water, and the organic layer is dried (Na2SO4), and concentrated by rotary evaporation. The resulting residue is chromatographed (5% EtOAc—CH2Cl2) to give 1.3 g (60%) of (3S, 6R)-3-(tert-butoxycarbonyl)aminohexahydro-6-([[pentyloxy]carbonyl]oxy)-2H-azepin-2-one as a pale yellow solid: 1H NMR (CDCl3): δ5.90 (d, J=6 Hz, 1H), 5.77 (t, J=6 Hz, 1H), 4.79 (m, 1H), 4.30 (m, 1H), 4.12 (m, 3H), 3.53 (m, 2H), 2.24 (m, 1H), 1.92 (m, 2H), 1.66 (m, 1H), 1.44 (s, 9H), 1.34 (m, 5H), 0.91 (m, 3H).

reactant | Triethylamine | 15 mmol, 2 mL | C(C)N(CC)CC | C6H15N
reactant | pentyl chloroformate | 12.2 mmol, 1.8 g | ClC(=O)OCCCCC | C6H11ClO2
reactant | (3S, 6R)-3-(tert-butoxycarbonyl)aminohexahydro-6-hydroxy-2H-azepin-2-one | 6.1 mmol, 1.5 g | C(C)(C)(C)OC(=O)N[C@@H]1C(NC[C@@H](CC1)O)=O | C11H20N2O4
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | (3S, 6R)-3-(tert-butoxycarbonyl)aminohexahydro-6-([[pentyloxy]carbonyl]oxy)-2H-azepin-2-one | 1.3 g, 60% | C(C)(C)(C)OC(=O)N[C@@H]1C(NC[C@@H](CC1)OC(=O)OCCCCC)=O | C17H30N2O6
